US05756505
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutyrylpiperazine
As in the case of Example 16, 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid (1.51 g) was subjected to a condensation reaction with 1-isobutyrylpiperazine (0.78 g). Thus obtained solid was recrystallized (from ether) to yield 1.98 g of the aimed compound.

reactant | 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid | 1.51 g | FC1=CC=C(COC2=C(C=C(C(=O)O)C=C2)CC(C)C)C=C1 | C18H19FO3
reactant | 1-isobutyrylpiperazine | 0.78 g | C(C(C)C)(=O)N1CCNCC1 | C8H16N2O
product | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutyrylpiperazine | 1.98 g | FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)C(C(C)C)=O)C=C2)CC(C)C)C=C1 | C26H33FN2O3
